US09145380B2
4-Chloro-2-(2-(4-(difluoromethoxy)phenyl)ethylsulfonamido)benzenesulfonamide
(E)-4-Chloro-2-(2-(4-(difluoromethoxy)phenyl)vinylsulfonamido)benzenesulfonamide (0.426 g, 0.97 mmol) was dissolved in anhydrous tetrahydrofuran (2 mL). Sodium acetate (0.318 g, 3.88 mmol) and p-toluenesulfonic acid hydrazide (0.723 g, 3.88 mmol) were added and the reaction was heated in a microwave at 180° C. for 60 min. The mixture was filtered and the solvent was evaporated under vacuum. Purification by preparative HPLC, gave 41 mg (10% yield) of the title compound.

reactant | (E)-4-Chloro-2-(2-(4-(difluoromethoxy)phenyl)vinylsulfonamido)benzenesulfonamide | 0.97 mmol, 0.426 g | ClC1=CC(=C(C=C1)S(=O)(=O)N)NS(=O)(=O)\C=C\C1=CC=C(C=C1)OC(F)F | C15H13ClF2N2O5S2
reactant | Sodium acetate | 3.88 mmol, 0.318 g | C(C)(=O)[O-].[Na+]
reactant | p-toluenesulfonic acid hydrazide | 3.88 mmol, 0.723 g | C1(=CC=C(C=C1)S(=O)(=O)NN)C | C7H10N2O2S
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 4-Chloro-2-(2-(4-(difluoromethoxy)phenyl)ethylsulfonamido)benzenesulfonamide | 41 mg, 10% yield | ClC1=CC(=C(C=C1)S(=O)(=O)N)NS(=O)(=O)CCC1=CC=C(C=C1)OC(F)F | C15H15ClF2N2O5S2
